US08278441B2
N-((4aR,6R,7aS)-7a-(4-Fluoro-3-(pyrimidin-5-yl)phenyl)-6-hydroxy-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide
A solution of N-((4aR,6R,7aS)-7a-(3-bromo-4-fluorophenyl)-6-hydroxy-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide (0.588 g, 1.31 mmol) in a mixture of 1,2-dimethoxyethane (8 mL), ethanol (4 mL) and water (4 mL) is purged with nitrogen and is heated to 97° C. Pyrimidine-5-boronic acid (0.810 g, 6.54 mmol), cesium carbonate (2.56 g, 7.84 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.184 g, 0.261 mmol) is added in a single portion and the reaction is heated at 97° C. for 30 minutes. The reaction is cooled, diluted with water and is extracted twice with ethyl acetate. The organic layer is dried over sodium sulfate and the crude product is purified by silica gel chromatography with a linear gradient of 0% to 40% ethyl acetate in dichloromethane over 20 minutes to give the title compound (0.464 g, 79%). ES/MS m/e: 449 (M+1).

reactant | N-((4aR,6R,7aS)-7a-(3-bromo-4-fluorophenyl)-6-hydroxy-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | 1.31 mmol, 0.588 g | BrC=1C=C(C=CC1F)[C@@]12N=C(SC[C@@H]1C[C@H](C2)O)NC(C2=CC=CC=C2)=O | C20H18BrFN2O2S
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | Pyrimidine-5-boronic acid | 6.54 mmol, 0.810 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 7.84 mmol, 2.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.261 mmol, 0.184 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 4 mL | O | H2O
product | N-((4aR,6R,7aS)-7a-(4-Fluoro-3-(pyrimidin-5-yl)phenyl)-6-hydroxy-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | 0.464 g, 79% | FC1=C(C=C(C=C1)[C@@]12N=C(SC[C@@H]1C[C@H](C2)O)NC(C2=CC=CC=C2)=O)C=2C=NC=NC2 | C24H21FN4O2S
